US05665718
A solution of 278 mg (0.76 mmol) of 8-chloro-3-(5-chloromethyl-1,2,4-oxadiazol-3-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one in 5 ml of N,N-dimethylformamide was treated with 0.39 ml (2.3 mmol) of dibutylamine and stirred at room temperature under argon for 1.5 hrs. The solution was evaporated, the residue was dissolved in 20 ml of methylene chloride and the solution was washed three times with water. The organic phase was dried with sodium sulfate, filtered and evaporated. The crude product was chromatographed on 20 g of silica gel (methylene chloride/acetone 4:1). There were obtained 250 mg of 8-chloro-3-(5-dibutylaminomethyl-1,2,4-oxadiazol-3-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one, which was converted with ethereal hydrochloric acid into the hydrochloride. By crystallization from acetonitrile there were obtained 151 mg (39%) of 8-chloro-1-(5-dibutylaminomethyl-1,2,4-oxadiazol-3-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one hydrochloride (1:1.3) of m.p. 165°-175° (dec.).

reactant | 8-chloro-3-(5-chloromethyl-1,2,4-oxadiazol-3-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 0.76 mmol, 278 mg | ClC=1C=CC2=C(C(N(CC=3N2C=NC3C3=NOC(=N3)CCl)C)=O)C1 | C15H11Cl2N5O2
reactant | dibutylamine | 2.3 mmol, 0.39 ml | C(CCC)NCCCC | C8H19N
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 8-chloro-3-(5-dibutylaminomethyl-1,2,4-oxadiazol-3-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 250 mg | ClC=1C=CC2=C(C(N(CC=3N2C=NC3C3=NOC(=N3)CN(CCCC)CCCC)C)=O)C1 | C23H29ClN6O2
